US05585378
5'-Phenyl-1'-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]spiro[1,3-dioxolane-2,3'-[3H]indol]-2'(1'H)-one
Following the general method of Example 14, 5'-phenylspiro[1,3-dioxolane-2,3'-[3H]indol]-2'(1'H)-one and 1-(2-chloroethyl)-4-(phenylmethyl)piperazine were reacted together to give the title compound. 13C Nmr (d6 -acetone) 173.9, 144.5, 141.0, 139.6, 136.6, 130.7, 129.7, 129.6, 128.9, 127.9, 127.6, 127.3, 126.2, 124.1, 110.6, 102.7, 66.5, 63.3, 55.6, 54.0, 53.8 and 38.0 ppm.

reactant | 5'-phenylspiro[1,3-dioxolane-2,3'-[3H]indol]-2'(1'H)-one | C1(=CC=CC=C1)C=1C=C2C3(C(NC2=CC1)=O)OCCO3 | C16H13NO3
reactant | 1-(2-chloroethyl)-4-(phenylmethyl)piperazine | ClCCN1CCN(CC1)CC1=CC=CC=C1 | C13H19ClN2
product | 5'-Phenyl-1'-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]spiro[1,3-dioxolane-2,3'-[3H]indol]-2'(1'H)-one | C1(=CC=CC=C1)C=1C=C2C3(C(N(C2=CC1)CCN1CCN(CC1)CC1=CC=CC=C1)=O)OCCO3 | C29H31N3O3
